US07977331B1
To a solution of methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (5.00 g, 14.8 mmol) in N,N-dimethylformamide (50 ml) was added sodium hydride (60% in oil, 713 mg, 17.8 mmol) under ice-cooling, and the mixture was stirred under ice-cooling for 1 hr. 2-(2-Bromoethoxy)tetrahydropyran (2.90 ml, 19.2 mmol) was added to the reaction mixture under ice-cooling, and the mixture m was stirred at room temperature for 4 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was successively washed with water and saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure to give methyl 2-bromo-3-cyclohexyl-1-[2-(tetrahydropyran-2-yloxy)ethyl]-1H-indole-6-carboxylate as a crude product. The obtained crude product was used for Step 2 without purification.

reactant | methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | 14.8 mmol, 5.00 g | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C16H18BrNO2
reactant | sodium hydride | 17.8 mmol, 713 mg | [H-].[Na+]
reactant | 2-(2-Bromoethoxy)tetrahydropyran | 19.2 mmol, 2.90 ml | BrCCOC1OCCCC1 | C7H13BrO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | methyl 2-bromo-3-cyclohexyl-1-[2-(tetrahydropyran-2-yloxy)ethyl]-1H-indole-6-carboxylate | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCOC1OCCCC1 | C23H30BrNO4
